US06028082
A) 1-tert-Butoxycarbonyl-4-carboxypiperidine
8.6 g of triethylamine and 20 ml of water are added to a solution of 10 g of isonipecotic acid in 100 ml of dioxane and the mixture is heated to 60° C. 20.25 g of di-tert-butyl carbonate are then added dropwise and the mixture is stirred for 1 hour at 60° C. and refluxed for 30 minutes. It is concentrated under vacuum, the residue is taken up with water and acidified to pH 3 by the addition of 2 N HCl solution and the precipitate formed is filtered off to give 17 g of the expected product.

reactant | triethylamine | 8.6 g | C(C)N(CC)CC | C6H15N
reactant | water | 20 ml | O | H2O
reactant | isonipecotic acid | 10 g | N1CCC(C(=O)O)CC1 | C6H11NO2
reactant | di-tert-butyl carbonate | 20.25 g | C(OC(C)(C)C)(OC(C)(C)C)=O | C9H18O3
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 1-tert-Butoxycarbonyl-4-carboxypiperidine | 17 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=O)O | C11H19NO4
